US07799805B2
[2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester
A mixture of [2-(4-chloro-3-formyl-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester (325 mg, 1.09 mmol), Et3N (0.228 mL, 1.64 mmol) and cyclopropylamine (0.115 mL, 1.64 mmol) in MeOH (3.66 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (103 mg, 2.73 mmol) was added. The mixture was stirred for 1 h at rt, and aq. sat. NaHCO3 was added. The mixture was extracted with EtOAc several times. The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC yielded the title compound (186 mg, 50%). LC-MS: tR=0.79 min; ES+: 339.39.

reactant | [2-(4-chloro-3-formyl-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 1.09 mmol, 325 mg | C(C)(C)(C)OC(N(C)CCC1=CC(=C(C=C1)Cl)C=O)=O | C15H20ClNO3
reactant | Et3N | 1.64 mmol, 0.228 mL | CCN(CC)CC | C6H15N
reactant | cyclopropylamine | 1.64 mmol, 0.115 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 2.73 mmol, 103 mg | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 3.66 mL | CO | CH4O
product | [2-(4-Chloro-3-cyclopropylaminomethyl-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 186 mg, 50% | C(C)(C)(C)OC(N(C)CCC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C18H27ClN2O2
